Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms ___ presents for subacute nausea and vomiting.

She states her symptoms began more than a month ago, beginning 
with cough that she attributed to an upper respiratory infection 
that "spread through her family."   Thereafter, she developed 
nausea and vomiting and low appetite.  Nausea and vomiting is 
usually during the day.   Over the past month, she's lost her 
taste for food and says she's been unable to keep anything down, 
although emesis has been only intermittent (not a daily 
occurrence).   Nevertheless, she's lost 30 lbs over this period. 
  She denies feeling depressed, or having constipation, 
diarrhea.   No fevers, chills, weight loss, or other systemic 
symptoms.  No prior recurrence of similar symptoms.   No chest 
pain, shortness of breath, headache, visual changes, 12 pt ROS 
otherwise negative.  

She is up to date with mammographies but has not had a screening 
colonoscopy.

 
Past Medical History:
None
 
Social History:
___
Family History:
Mother with heart disease.  
 
Physical Exam:
Vitals:  T 98.5 P 93 BP 180 / 96  RR 17  SaO2 98% RA 
GEN: Black female, NAD, comfortable appearing  
HEENT: ncat anicteric MMM  
NECK: no lymphadenopathy, regularly circumscribed mole on left 
side of neck
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
ABD: +bs, soft, NT, ND, no guarding or rebound  
EXTR:no c/c/e 2+pulses  
DERM: no rash  
PSYCH: calm, cooperative  

 
Pertinent Results:
___ 03:45AM URINE  HOURS-RANDOM
___ 03:45AM URINE  HOURS-RANDOM
___ 03:45AM URINE  UHOLD-HOLD
___ 03:45AM URINE  GR HOLD-HOLD
___ 03:45AM URINE  COLOR-DkAmb APPEAR-Hazy SP ___
___ 03:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-40 BILIRUBIN-SM  UROBILNGN->12 PH-6.0 
LEUK-MOD
___ 03:45AM URINE  RBC-9* WBC-15* BACTERIA-FEW YEAST-NONE 
EPI-12 TRANS EPI-1
___ 03:45AM URINE  HYALINE-5*
___ 03:45AM URINE  MUCOUS-MANY
___ 10:56PM   GLUCOSE-100 UREA N-10 CREAT-0.6 SODIUM-139 
POTASSIUM-2.8* CHLORIDE-89* TOTAL CO2-31 ANION GAP-22*
___ 10:56PM   estGFR-Using this
___ 10:56PM   ALT(SGPT)-18 AST(SGOT)-49* ALK PHOS-45 TOT 
BILI-1.8*
___ 10:56PM   LIPASE-59
___ 10:56PM   ALBUMIN-3.8 MAGNESIUM-1.2*
___ 10:56PM   WBC-9.6 RBC-3.28* HGB-11.2 HCT-32.0* MCV-98 
MCH-34.1* MCHC-35.0 RDW-13.1 RDWSD-46.6*
___ 10:56PM   NEUTS-74.7* LYMPHS-15.1* MONOS-8.0 EOS-0.9* 
BASOS-0.3 IM ___ AbsNeut-7.17* AbsLymp-1.45 AbsMono-0.77 
AbsEos-0.09 AbsBaso-0.03
___ 10:56PM   PLT COUNT-363
================
 
Brief Hospital Course:
___ year old female presenting with 1 month of nausea, vomiting, 
poor PO intake and weight loss.  We felt her symptoms were 
secondary to a resolving gastroenteritis.  To treat this, we 
started her on IV K+ and Mg+ as her electrolytes were depleted.  
 We also performed a CT scan with IV contrast (no PO contrast 
because she was not initially tolerating) with no signs of 
obstruction or other process.  Total bilirubin was elevated to 
2.0 with direct bilirubin at 1.3, however right upper quadrant 
ultrasound revealed no obstruction or biliary pathology.   CT 
scan did reveal hepatic steatosis which may represent fatty 
liver disease; lipid profile was checked with was within normal 
limits.  HbA1c was not checked.  No alcohol history.   She was 
found to be hypertensive with BPs in the 160s-180s/100s - she 
was started on lisinopril with significant improvement.   This 
may represent underlying metabolic syndrome which may contribute 
to fatty liver.  

Her symptoms improved with IVFs and Zofran as needed.   
Nutrition was consulted who recommended small, frequent meals.  
She is due to see her PCP next week.   If her symptoms persist, 
she may need further workup, including barium swallow and/or 
endoscopy, or CT scan with oral contrast.      

Calcifications in the left breast were noted on CT scan which 
will require follow up mammogram.  

She is also due for follow up colonoscopy and HbA1c.  

 
Discharge Medications:
1. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Potassium Chloride (Powder) 20 mEq PO DAILY 
Mix with 8 ounces of water and take daily. 
RX *potassium chloride [Klor-Con] 20 mEq 1 packet(s) by mouth 
daily Disp #*5 Packet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Resolving gastroenteritis
Hypokalemia and hypomagnesemia
Hypertension 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___,

You were admitted for decreased nutritional intake.   To treat 
you, we performed a CT scan and ultrasound and did not find any 
abnormalities.   We think your symptoms are from a resolving 
prior infection.  We gave you fluids to replete your potassium 
and magnesium, which were very low.   We also had you meet with 
a nutritionist to discuss your future diet.   Please take 
potassium and magnesium tablets daily until you see your primary 
care physician (see prescriptions).   We also noted that your 
blood pressure was very high and we started you on a blood 
pressure pill (lisinopril) which you should take daily.  

We also noted an area on the CT scan in your left breast with 
calcifications - this requires follow up with a mammogram.  
Please discuss this with your PCP on follow up.  You are also 
due for a colonoscopy. 
 
Followup Instructions:
___